US09403773B2
Amberlyst 15 (1.0 g, a product of Sigma Aldrich Corp.) was added to a benzene solution (200 ml) of 5-fluoro-2-propoxyaniline (10 g, 59 mmol) and ethyl acetoacetate (7.7 g, 59 mmol). The mixture was stirred while heating under reflux for 6 hours and using a Dean-Stark trap. The reaction mixture was cooled to room temperature, the resin was removed by filtration, and the filtrate was concentrated under reduced pressure. Diphenyl ether (20 ml) was added to the residue. The mixture was heated using a mantle heater and stirred under reflux for 2 hours. After the reaction mixture was cooled to room temperature, insoluble matter obtained by the addition of n-hexane-ethyl acetate (2:1) was collected by filtration. The substance remaining on the filter was washed with n-hexane-ethyl acetate (2:1), and dried to thereby obtain 6.0 g of powdery pale yellow 5-fluoro-2-methyl-8-propoxy-1H-quinolin-4-one (yield: 43%).

reactant | 5-fluoro-2-propoxyaniline | 59 mmol, 10 g | FC=1C=CC(=C(N)C1)OCCC | C9H12FNO
reactant | ethyl acetoacetate | 59 mmol, 7.7 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 5-fluoro-2-methyl-8-propoxy-1H-quinolin-4-one | 6.0 g, yield: 43% | FC1=C2C(C=C(NC2=C(C=C1)OCCC)C)=O | C13H14FNO2
